US06156748
A. 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-iodoethyl)oxazole
A solution of triphenylphosphine (118.8 mmole, 31.12 g), in methylene chloride (460 ml) was treated with iodine (approximately 30.17 g) until a dull yellow color persisted. The reaction stirred fifteen minutes, then a solution of 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-hydroxyethyl)oxazole (79.2 mmole, 25.10 g) and imidazole (158.3 g, 10.77 g) in methylene chloride (300 ml) was added over a ten minute period. At 3.0 hours the reaction was concentrated in vacuo then taken up into methylene chloride and subjected to flash silica gel filtration. Desired product was eluted with 1:1 ethyl acetate:hexane, collecting 500 ml fractions. Desired fractions were combined, washed with 1×250 ml 1N sodium thiosulfate and 1×250 ml brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 32.53 g (96%) of the title compound.

reactant | triphenylphosphine | 118.8 mmole, 31.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | approximately 30.17 g | II | I2
reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-hydroxyethyl)oxazole | 79.2 mmole, 25.10 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC=C(N1)CCO | C19H27NO3
reactant | imidazole | 158.3 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 460 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(2-iodoethyl)oxazole | 32.53 g, 96% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC=C(N1)CCI | C19H26INO2
